US06211242B1
To a solution of 4′-methylbiphenyl-2-carboxamido-N-methyl-N-(2-hydroxyphenyl)benzamide (263 mg) in N,N-dimethylformamide (15 ml) was added potassium carbonate (250 mg), ethyl 6-bromohexanoate (161 mg) and sodium iodide (cat.) at 60° C. The reaction mixture was stirred at same temperature for 13 hours. The reaction mixture was cooled in an ice bath and quenched with 1N hydrochloric acid (4 ml) and water (20 ml). The mixture was extracted with ethyl acetate. The organic phase was washed with water and brine. The organic solution was dried over magnesium sulfate. The solvent was removed by evaporation to give 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-ethoxycarbonylpentyloxy)phenyl]benzamide (380 mg).

reactant | 4′-methylbiphenyl-2-carboxamido-N-methyl-N-(2-hydroxyphenyl)benzamide | 263 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=C(C(=O)N(C2=C(C=CC=C2)O)C)C=CC=C1 | C28H24N2O3
reactant | potassium carbonate | 250 mg | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl 6-bromohexanoate | 161 mg | BrCCCCCC(=O)OCC | C8H15BrO2
reactant | sodium iodide | [I-].[Na+]
reactant | N,N-dimethylformamide | 15 ml | CN(C=O)C | C3H7NO
product | 4-(4′-methylbiphenyl-2-carboxamido)-N-methyl-N-[2-(5-ethoxycarbonylpentyloxy)phenyl]benzamide | 380 mg | CC1=CC=C(C=C1)C=1C(=CC=CC1)C(=O)NC1=CC=C(C(=O)N(C2=C(C=CC=C2)OCCCCCC(=O)OCC)C)C=C1 | C36H38N2O5
